US07868036B2
b) 2-(cis-4-Hydroxy-cyclohexyl)-2-methyl-propionic acid
2.690 g of 2-(4-hydroxy-phenyl)-2-methyl-propionic acid [29913-51-7] are dissolved in 20 ml of water and 30 ml of 1M NaOH solution. 0.200 g of Raney-Nickel are added and the reaction mixture is hydrogenated at 50 bar and 150° C. for 24 hours. The catalyst is removed by filtration over Hyflo and the filtrate is concentrated by evaporation. The residue is taken up in 200 ml of water and the solution neutralized with 1M HCl to pH 6. The reaction mixture is then extracted with dichloromethane (2×200 ml) and ethyl acetate (2×20 ml) and the combined organic phases are dried over sodium sulphate and concentrated by evaporation to provide the title compounds as a ca. 1:4 mixture of cis/trans-isomers. The white solid is used for the next step without further purification.

reactant | 2-(4-hydroxy-phenyl)-2-methyl-propionic acid | 2.690 g | OC1=CC=C(C=C1)C(C(=O)O)(C)C | C10H12O3
solvent | water | 20 ml | O | H2O
solvent | NaOH | 1M, 30 ml | [OH-].[Na+]
catalyst | Raney-Nickel | 0.200 g | [Ni] | Ni
product | 2-(cis-4-Hydroxy-cyclohexyl)-2-methyl-propionic acid | O[C@H]1CC[C@H](CC1)C(C(=O)O)(C)C | C10H18O3
